US04209621
7-(m-Trifluoromethylphenyl)-1,2,4-triazolo[4,3-a]pyrimidine
A mixture of 2.0 g. of 2-hydrazino-4-(m-trifluoromethylphenyl)pyrimidine and 25 ml. of triethyl orthoformate is refluxed for 8 hours. Cooling gives the desired compound, m.p. 202°-203° C.

reactant | 2-hydrazino-4-(m-trifluoromethylphenyl)pyrimidine | N(N)C1=NC=CC(=N1)C1=CC(=CC=C1)C(F)(F)F | C11H9F3N4
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
product | 7-(m-Trifluoromethylphenyl)-1,2,4-triazolo[4,3-a]pyrimidine | FC(C=1C=C(C=CC1)C1=NC=2N(C=C1)C=NN2)(F)F | C12H7F3N4
